US04772596
1-Benzhydryl-3-hydroxypiperidine
5.05 g (0.05 mole) of 3-hydroxypiperidine and 13.82 g (0.1 mole) of potassium carbonate were suspended in 100 ml of dimethylformamide. 12.36 g (0.05 mole) of benzhydryl bromide were then added to the mixture, whilst stirring, and the mixture was stirred for 10 hours at room temperature. At the end of this time, the mixture was poured into 700 ml of water and extracted with ethyl acetate. The extracts were washed with water and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was subjected to silica gel column chromatography, and 10.53 g (yield 78%) of the title compound were obtained as a colorless material from the fractions eluted with a 9:1 by volume mixture of toluene and ethyl acetate.

reactant | 3-hydroxypiperidine | 0.05 mole, 5.05 g | OC1CNCCC1 | C5H11NO
reactant | potassium carbonate | 0.1 mole, 13.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzhydryl bromide | 0.05 mole, 12.36 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
reactant | water | 700 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-Benzhydryl-3-hydroxypiperidine | 10.53 g, yield 78% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(CCC1)O | C18H21NO
